US07375115B2
2-[1-(2-Benzyloxyethyl)cyclohexyl]ethanol
To a suspension of 60% sodium hydride/mineral oil (881 mg) in N,N-dimethylformamide (20 mL) was added 2-[1-(2-hydroxyethyl)cyclohexyl]ethanol (2.92 g) under ice cooling. To the solution was further added benzyl bromide (2.83 mL) under ice cooling, and it was stirred at room temperature for 63 hours. Water and 3N hydrochloric acid were added to the solution, and it was extracted with ethyl acetate. The organic layer was washed in turn with water and saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The resulting residue was purified by chromatography (silica gel, hexane:ethyl acetate=6:4) to give the title compound (2.93 g).

reactant | sodium hydride | [H-].[Na+]
reactant | 2-[1-(2-hydroxyethyl)cyclohexyl]ethanol | 2.92 g | OCCC1(CCCCC1)CCO | C10H20O2
reactant | benzyl bromide | 2.83 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 2-[1-(2-Benzyloxyethyl)cyclohexyl]ethanol | 2.93 g | C(C1=CC=CC=C1)OCCC1(CCCCC1)CCO | C17H26O2
